US04042601
Preparation of 2-Isobutyl-6-Methyl-1,3-Oxathiane
75 ml of dichloromethane is placed into a 100 ml round-bottom flask. To the dichloromethane is added 5.3 grams (0.05 moles) of 4-mercapto-2-butanol. 4.74 grams (0.055 moles) of isovaleraldehyde is then added followed by 0.1 grams of p-toluene sulfonic acid. Boiling chips are added to the flask. A Dean-Starke distilling receiver is placed on the flask, and a reflux condenser is placed on the receiver. The flask is then heated slowly until reflux occurs, and then the temperature is increased for a more vigorous reflux. The reflux lasts for a period of 2 hours before water of reaction ceases to be formed. The reaction mass is then cooled and neutralized with diethyl amine to a pH of about 8. The reaction mass is filtered through fluted filter paper, and the dichloromethane solvent is removed by means of rotary evaporation. 8.8 grams of crude product are recovered after the rotary evaporation operation. The crude product is then distilled by means of vacuum distillation yielding the following 3 fractions:

reactant | 4-mercapto-2-butanol | 0.05 moles, 5.3 grams | SCCC(C)O | C4H10OS
reactant | isovaleraldehyde | 0.055 moles, 4.74 grams | C(CC(C)C)=O | C5H10O
reactant | p-toluene sulfonic acid | 0.1 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | diethyl amine | C(C)NCC | C4H11N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 2-Isobutyl-6-Methyl-1,3-Oxathiane | C(C(C)C)C1OC(CCS1)C | C9H18OS
